US08957064B2
5-(4-{4-[5-(4-chloropyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl) 6-(2,4-difluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidine
192 mg (0.57 mmol) 4-Chloro-2-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 4.8 mL NMP. After addition of 0.19 mL triethylamine the reaction mixture is stirred for one hour. 200 mg (0.57 mmol) 4-[6-(2,4-Difluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]-benzaldehyde and 0.06 mL acetic acid are added. The reaction mixture is stirred over night at room temperature. 133 mg (0.63 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for 5 hours. The reaction mixture is treated with saturated NaHCO3. The precipitate is filtered off, washed with water and dried. After chromatography of the precipitate on silica gel (dichloromethane/methanol) 99.1 mg (27.6%) of the desired product are obtained.

reactant | 4-Chloro-2-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)-pyridine | 0.57 mmol, 192 mg | ClC1=CC(=NC=C1)C=1NN=C(N1)C1CCNCC1 | C12H14ClN5
reactant | 4-[6-(2,4-Difluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]-benzaldehyde | 0.57 mmol, 200 mg | FC1=C(C=CC(=C1)F)C=1C(=NC=2N(C1)N=C(N2)C)C2=CC=C(C=O)C=C2 | C19H12F2N4O
reactant | NaBH(OAc)3 | 0.63 mmol, 133 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 4.8 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.06 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.19 mL | C(C)N(CC)CC | C6H15N
product | 5-(4-{4-[5-(4-chloropyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl) 6-(2,4-difluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidine | ClC1=CC(=NC=C1)C1=NC(=NN1)C1CCN(CC1)CC1=CC=C(C=C1)C1=NC=2N(C=C1C1=C(C=C(C=C1)F)F)N=C(N2)C | C31H26ClF2N9
